US04128560
1,2,3,4-Tetrahydro-1-methylcarbazole-1-propionic Acid Methyl Ester (5, R1 and R7 = CH3, R2, R3 and R4 = H, m = 3 and n = 2)
In the same manner but replacing 1-methyl-2-oxocyclohexanepropionic acid methyl ester with an equivalent amount of 1-ethyl-2-oxocyclohexanepropionic acid methyl ester, described in Example 6, 3a-ethyl-1,2,3,3a,4,5-hexahydro-6H-pyrido[3,2,1-jk]carbazol-6-one, mp 97°-99° C., and 1-ethyl-1,2,3,4-tetracarbazole-1-propionic acid methyl ester, νmaxCHCl3 1738 cm-1 are obtained.

reactant | 1-methyl-2-oxocyclohexanepropionic acid methyl ester | COC(CCC1(C(CCCC1)=O)C)=O | C11H18O3
reactant | 1-ethyl-2-oxocyclohexanepropionic acid methyl ester | COC(CCC1(C(CCCC1)=O)CC)=O | C12H20O3
reactant | 3a-ethyl-1,2,3,3a,4,5-hexahydro-6H-pyrido[3,2,1-jk]carbazol-6-one | C(C)C12CCCC=3C=4C=CC=CC4N(C13)C(CC2)=O | C17H19NO
product | 1,2,3,4-Tetrahydro-1-methylcarbazole-1-propionic Acid Methyl Ester | COC(CCC1(CCCC=2C3=CC=CC=C3NC12)C)=O | C17H21NO2
